US05366981
1-(3-pyrrolin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-1,2,3,4-tetrahydroisoquinoline hydrochloride
Prepared as Example No. 1 from 1.44 g (6.73 mmoles) of 1-(3-pyrrolin-1-yl)methyl-1,2,3,4-tetrahydroisoquinoline, 1.8 g (13.05 mmoles) of anhydrous potassium carbonate and 1.8 g (8.05 mmoles) of 3,4-dichlorophenylacetyl chloride in 50 ml of dry chloroform. The work-up of the reaction mixture afforded 1.9 g of the crude product which was dissolved in 60 ml of ethyl acetate and the solution brought to acidic pH with HCl/diethyl ether. The precipitate was filtered, washed and dried, to yield 1.5 g of the title compound.

reactant | 1-(3-pyrrolin-1-yl)methyl-1,2,3,4-tetrahydroisoquinoline | 6.73 mmoles, 1.44 g | N1(CC=CC1)CC1NCCC2=CC=CC=C12 | C14H18N2
reactant | potassium carbonate | 13.05 mmoles, 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dichlorophenylacetyl chloride | 8.05 mmoles, 1.8 g | ClC=1C=C(C=CC1Cl)CC(=O)Cl | C8H5Cl3O
reactant | HCl diethyl ether | Cl.C(C)OCC
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-pyrrolin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.5 g | Cl.N1(CC=CC1)CC1(NCCC2=CC=CC=C12)C(CC1=CC(=C(C=C1)Cl)Cl)=O | InChI=1S/C22H22Cl2N2O.ClH/c23-19-8-7-16(13-20(19)24)14-21(27)22(15-26-11-3-4-12-26)18-6-2-1-5-17(18)9-10-25-22;/h1-8,13,25H,9-12,14-15H2;1H
